US04367234
5-Phenyloxazolidine-2,4-dione
By the procedure of Example 3, except that a reaction time of 16 hours at room temperature was used following cold perfusion with phosgene, ethyl 1-hydroxy-1-phenylmethanecarboximidate hydrochloride (22 g., 0.102 mole) in 450 ml. of tetrahydrofuran was converted to toluene recrystallized 5-phenyloxazolidine-2,4-dione (10.5 g., m.p. 103°-105° C.).

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | ethyl 1-hydroxy-1-phenylmethanecarboximidate hydrochloride | 0.102 mole, 22 g | Cl.OC(C(OCC)=N)C1=CC=CC=C1
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-Phenyloxazolidine-2,4-dione | C1(=CC=CC=C1)C1C(NC(O1)=O)=O | C9H7NO3
